US04755212
Preparation of 2-benzyloxymethyl-6-chloro aniline
This material was prepared from 2-amino-3-chlorobenzyl alcohol and benzyl bromide by the general procedure outlined in Example 82. The product was purified by Kugelrohr distillation to yield an oil, bp 118°-125° C. (0.1 mm). The product was characterized by IR and 1H NMR spectroscopy.

reactant | 2-amino-3-chlorobenzyl alcohol | NC1=C(CO)C=CC=C1Cl | C7H8ClNO
reactant | benzyl bromide | C(C1=CC=CC=C1)Br | C7H7Br
product | 2-benzyloxymethyl-6-chloro aniline | C(C1=CC=CC=C1)OCC1=C(N)C(=CC=C1)Cl | C14H14ClNO
